US08138345B2
Preparation of Biphenyl-2-ylcarbamic Acid 1-(2-{[4-(4-{[(R)-2-(tert-butyldimethylsilanyloxy)-2-(8-hydroxy-2-oxo-1,2-dihydroquinolin-5-yl)ethylamino]methyl}-phenylcarbamoyl)butyl]methylcarbamoyl}ethyl)piperidin-4-yl Ester
To a stirred solution of biphenyl-2-ylcarbamic acid 1-(2-{[4-(4-formylphenylcarbamoyl)butyl]methylcarbamoyl}ethyl)piperidin-4-yl ester (2.83 g, 4.84 mmol) and 5-[(R)-2-amino-1-(tert-butyldimethylsilanyloxy)ethyl]-8-hydroxy-1H-quinolin-2-one acetic acid salt (1.91 g, 4.84 mmol) in a 1:1 mixture of MeOH:DCM (40.0 mL, 312 mmol) was added sodium triacetoxyborohydride (3.08 g, 14.5 mmol). The reaction mixture was stirred at room temperature for 2 h and then the layers were separated. The organic layer was washed with saturated aqueous sodium bicarbonate solution, dried over sodium sulfate, filtered and concentrated under reduced pressure to give a yellow solid. The solid was purified by silica gel flash chromatography (0-30% MeOH in DCM+0.5% NH4OH) to give the title compound (3.60 g, 82% yield) as a yellow solid.

reactant | biphenyl-2-ylcarbamic acid 1-(2-{[4-(4-formylphenylcarbamoyl)butyl]methylcarbamoyl}ethyl)piperidin-4-yl ester | 4.84 mmol, 2.83 g | C(=O)C1=CC=C(C=C1)NC(=O)CCCCN(C(=O)CCN1CCC(CC1)OC(NC1=C(C=CC=C1)C1=CC=CC=C1)=O)C | C34H40N4O5
reactant | 5-[(R)-2-amino-1-(tert-butyldimethylsilanyloxy)ethyl]-8-hydroxy-1H-quinolin-2-one acetic acid salt | 4.84 mmol, 1.91 g | C(C)(=O)O.NC[C@H](O[Si](C)(C)C(C)(C)C)C1=C2C=CC(NC2=C(C=C1)O)=O
reactant | DCM | 312 mmol, 40.0 mL | C(Cl)Cl | CH2Cl2
reactant | sodium triacetoxyborohydride | 14.5 mmol, 3.08 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | MeOH | CO | CH4O
product | Biphenyl-2-ylcarbamic Acid 1-(2-{[4-(4-{[(R)-2-(tert-butyldimethylsilanyloxy)-2-(8-hydroxy-2-oxo-1,2-dihydroquinolin-5-yl)ethylamino]methyl}-phenylcarbamoyl)butyl]methylcarbamoyl}ethyl)piperidin-4-yl Ester | 3.60 g, 82% yield | [Si](C)(C)(C(C)(C)C)O[C@@H](CNCC1=CC=C(C=C1)NC(=O)CCCCN(C(=O)CCN1CCC(CC1)OC(NC1=C(C=CC=C1)C1=CC=CC=C1)=O)C)C1=C2C=CC(NC2=C(C=C1)O)=O | C51H66N6O7Si
